US04898864
A solution of 2.4 g (7.1 mmoles) of 2-[(1,1,2,3,3-pentamethyl-5-indanyl)carbonyl]benzoic acid, described in Example II, in 80 cm3 of ethyl alcohol containing 0.1 cm3 of 98% sulfuric acid, is heated for 12 hours at reflux. The solution is then concentrated under reduced pressure. The crude ester is dissolved in 100 cm3 of ethyl ether. The etherified solution is washed with sodium bicarbonate and then with water, dried on sodium sulfate and finally evaporated to dryness. After drying, 2.5 g of ethyl 2-[(1,1,2,3,3-pentamethyl-5-indanyl)carbonyl]benzoate in the form of a colorless oil are obtained which slowly crystallizes at ambient temperature to give a white solid whose melting point is 56-57° C. The NMR1H 80 MHz and IR spectra conform to the expected structure.

reactant | 2-[(1,1,2,3,3-pentamethyl-5-indanyl)carbonyl]benzoic acid | 7.1 mmoles, 2.4 g | CC1(C(C(C2=CC(=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1)(C)C)C)C | C22H24O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethyl alcohol | 80 cm3 | C(C)O | C2H6O
product | ethyl 2-[(1,1,2,3,3-pentamethyl-5-indanyl)carbonyl]benzoate | 2.5 g | CC1(C(C(C2=CC(=CC=C12)C(=O)C1=C(C(=O)OCC)C=CC=C1)(C)C)C)C | C24H28O3
